US06194410B1
A suspension of 1.3 g (3.43 mmol) of 3-benzenesulphonyl-5-dimethylaminomethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ol in 50 ml of POCl3 was heated at reflux for 3 hrs. The reaction solution was cooled to RT and evaporated. The residue was treated with 100 ml of ice-water and the pH value of the solution was adjusted to 8 with sat. NaHCO3 solution. The aqueous phase was extracted three times with 100 ml of CH2Cl2 and the organic phases were dried (MgSO4), filtered and evaporated. Chromatography (SiO2, CH2Cl2/AcOEt 1:1) of the residue yielded 1.2 g (88%) of (3-benzenesulphonyl-7-chloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-5-ylmethyl)-dimethyl-amine as a colorless foam.

reactant | 3-benzenesulphonyl-5-dimethylaminomethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ol | 3.43 mmol, 1.3 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2O)CN(C)C)SC | C16H18N4O3S2
reactant | POCl3 | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | (3-benzenesulphonyl-7-chloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-5-ylmethyl)-dimethyl-amine | 1.2 g, 88% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)CN(C)C)SC | C16H17ClN4O2S2
